US08114867B2
200.i. (RS)-(2-oxiranyl-ethyl)-carbamic acid benzyl ester
To a solution of but-3-enyl-carbamic acid benzyl ester (prepared according to Heterocycles (2006), 67(2), 549-554; 21.5 g, 105 mmol) in chloroform (380 mL) was added, dropwise over a period of 1 h, a solution of MCPBA (28.3 g, 1.1 eq.) in chloroform (270 mL) at 10° C. Stirring was continued for 20 h at rt. The reaction mixture was filtered and 10% sodium sulfite solution was added to the filtrate (until starch-iodide paper test was negative). The mixture was washed with 5% Na2CO3 and brine. The org. layer was dried over MgSO4 and concentrated to afford the title intermediate as a colourless liquid (21.6 g, 93% yield).

reactant | but-3-enyl-carbamic acid benzyl ester | 105 mmol, 21.5 g | C(C1=CC=CC=C1)OC(NCCC=C)=O | C12H15NO2
reactant | MCPBA | 28.3 g, 1.1 eq. | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 380 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 270 mL | C(Cl)(Cl)Cl | CHCl3
product | (RS)-(2-oxiranyl-ethyl)-carbamic acid benzyl ester | 21.6 g, 93% yield | C(C1=CC=CC=C1)OC(NCCC1OC1)=O | C12H15NO3
